US09238602B1
A 2 liter Parr autoclave was charged with 100 grams of 2,2,4,4-tetramethylcyclobutane-1,3-dione, 300 grams of 4-methyl-2-pentanol, and 50 grams of 2% ruthenium on alumina (surface area=10 m2/g, purchased from BASF Catalysts). The autoclave was pressure purged three times with nitrogen and three times with hydrogen, and the pressure was increased to 3.5 MPa (500 psig) with hydrogen. The autoclave was heated to 100° C. with stirring at approximately 1300 rpm and held for 6 hours at 3.5 MPa (500 psig). Analysis of the product by gas chromatography indicated that complete conversion of the 2,2,4,4-tetramethylcyclobutane-1,3-dione was obtained with 99.5% selectivity to 2,2,4,4-tetramethycyclobutane-1,3-diol with a cis:trans ratio of 1.54:1.

reactant | 2,2,4,4-tetramethylcyclobutane-1,3-dione | 100 grams | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | 4-methyl-2-pentanol | 300 grams | CC(CC(C)O)C | C6H14O
catalyst | ruthenium on alumina | 50 grams | [Ru] | Ru
product | 2,2,4,4-tetramethycyclobutane-1,3-diol | CC1(C(C(C1O)(C)C)O)C | C8H16O2
